US04093809
A solution of 400 grams (1.42 moles) of diethyl 1-methyl-3,3-diethoxypropylphosphonate in 1 liter of water and 4 liters of acetone containing 30 ml of concentrated hydrochloric acid was stirred and refluxed under nitrogen at 62° C for 1.5 hours. Low boiling materials were removed at 80° C/16 mm to give the diethyl 1-methyl-3-oxopropylphosphonate in a 296 grams (quantitative) yield as a pale yellow liquid. The structure was confirmed by NMR.

reactant | diethyl 1-methyl-3,3-diethoxypropylphosphonate | 1.42 moles, 400 grams | CC(CC(OCC)OCC)P(OCC)(OCC)=O | C12H27O5P
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1 liter | O | H2O
solvent | acetone | 4 liters | CC(=O)C | C3H6O
product | diethyl 1-methyl-3-oxopropylphosphonate | CC(CC=O)P(OCC)(OCC)=O | C8H17O4P
